US07825131B2
Step A: 2-Chloro-N-(2,4-dimethoxybenzyl)-N-[2-(3-fluorobenzoyl)-4-methoxyphenyl]acetamide
To a 0° C. solution of {2-[(2,4-dimethoxybenzyl)amino]-5-methoxyphenyl}(3-fluorophenyl)methanone (190 mg, 0.480 mmol) in 5 mL of dichloromethane was added triethylamine (0.335 mL, 2.40 mmol), followed by chloroacetyl chloride (0.115 mL, 1.44 mmol). After 30 minutes, another portion of chloroacetyl chloride (0.115 mL, 1.44 mmol) was added, and the mixture was stirred overnight. The reaction was partitioned between EtOAc and saturated NaHCO3 solution, and the organic layer was washed with saturated NH4Cl solution and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The titled product was isolated as a brown foam (229 mg, 100% yield) which was used in the next step without further purification ESI+MS: 472.1 [M+H]+.

reactant | {2-[(2,4-dimethoxybenzyl)amino]-5-methoxyphenyl}(3-fluorophenyl)methanone | 0.480 mmol, 190 mg | COC1=C(CNC2=C(C=C(C=C2)OC)C(=O)C2=CC(=CC=C2)F)C=CC(=C1)OC | C23H22FNO4
reactant | triethylamine | 2.40 mmol, 0.335 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 1.44 mmol, 0.115 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroacetyl chloride | 1.44 mmol, 0.115 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-Chloro-N-(2,4-dimethoxybenzyl)-N-[2-(3-fluorobenzoyl)-4-methoxyphenyl]acetamide | ClCC(=O)N(C1=C(C=C(C=C1)OC)C(C1=CC(=CC=C1)F)=O)CC1=C(C=C(C=C1)OC)OC | C25H23ClFNO5
